US05489593
Methyl-4-nitro-α-azidocinnamate
Following the general procedure of PREPARATION 61 and making non-critical variations but starting with p-nitrobenzaldehyde (10 g) and methyl azidoacetate (30.4 g), the title compound is obtained, NMR 8.34, 8.07, 7.02, and 4.07 δ.

reactant | p-nitrobenzaldehyde | 10 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | methyl azidoacetate | 30.4 g | N(=[N+]=[N-])CC(=O)OC | C3H5N3O2
product | Methyl-4-nitro-α-azidocinnamate | COC(C(=CC1=CC=C(C=C1)[N+](=O)[O-])N=[N+]=[N-])=O | C10H8N4O4
